US07553969B1
(4) Synthesis of 2-(N-tert-butoxycarbonyl-N-methylamino)-3-methylbutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(thiazol-2-yl)ethylamide
To a solution of 2-(3-tert-butyl-4-hydroxylphenyl)-1-(thiazol-2-yl)ethylamine (4.67 g, 16.64 mmol), Boc-N-Me-Val-OH (5.0 g, 21.63 mmol) and CMPI (5.53 g, 21.63 mmol) in THF (110 ml), TEA (5.33 ml, 38.27 mmol) was added under cooling with ice and stirred at room temperature overnight. The reaction mixture was mixed with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: methanol:aqueous ammonia:methylene chloride=3:0.1:100), giving the titled compound (8.10 g, 100%).

reactant | 2-(3-tert-butyl-4-hydroxylphenyl)-1-(thiazol-2-yl)ethylamine | 16.64 mmol, 4.67 g | C(C)(C)(C)C=1C=C(C=CC1O)CC(C=1SC=CN1)N | C15H20N2OS
reactant | Boc-N-Me-Val-OH | 21.63 mmol, 5.0 g | N([C@@H](C(C)C)C(=O)O)(C)C(=O)OC(C)(C)C | C11H21NO4
reactant | water | O | H2O
solvent | THF | 110 ml | C1CCOC1 | C4H8O
product | 2-(N-tert-butoxycarbonyl-N-methylamino)-3-methylbutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(thiazol-2-yl)ethylamide | 8.10 g, 100% | C(C)(C)(C)C=1C=C(C=CC1O)CC(C=1SC=CN1)NC(C(C(C)C)N(C)C(=O)OC(C)(C)C)=O | C26H39N3O4S
